US04021441
In the manner given in Example 31, 8-nitro-1-(chloromethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine, potassium iodide and allylamine in tetrahydrofuran is reacted to give 8-nitro-1-[(allylamino)methyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 8-nitro-1-(chloromethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | [N+](=O)([O-])C=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=C(C=CC=C3)Cl)C1 | C17H11Cl2N5O2
reactant | potassium iodide | [I-].[K+]
reactant | allylamine | C(C=C)N | C3H7N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 8-nitro-1-[(allylamino)methyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | [N+](=O)([O-])C=1C=CC2=C(C(=NCC=3N2C(=NN3)CNCC=C)C3=C(C=CC=C3)Cl)C1 | C20H17ClN6O2
